US07855292B2
C. (±)-2-[4-Chloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-3-(3,4-dichloro-phenyl)-3-oxo-propionic acid methyl ester
4-Chloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid was coupled to (±)-2-amino-3-(3,4-dichloro-phenyl)-3-oxo-propionic acid methyl ester hydrochloride as in EXAMPLE 1, Part C. HPLC: RT=10.65 min. MS (ESI+): mass calcd. for C25H17Cl3N4O6S, 605.99; m/z found, 607/609 [M+H]+. 1H NMR (500 MHz, CDCl3): 11.23 (s, 1H), 8.88 (d, J=1.8, 1H), 8.85 (d, J=1.8, 1H), 8.58 (dd, J=7.4, 1.4, 1H), 8.32 (dd, J=8.5, 1.4, 1H), 8.24 (d, 2.1, 1H), 8.03 (dd, J=8.4, 2.1, 1H), 7.89-7.86 (m, 1H), 7.79 (d, J=2.0, 1H), 7.69 (d, J=8.4, 1H), 7.45 (d, J=8.5, 1H), 7.30 (d, J=6.9, 1H), 6.97 (dd, J=8.4, 2.0, 1H), 6.19 (d, J=6.9, 1H), 3.78 (s, 3H).

reactant | 4-Chloro-2-(quinoxaline-5-sulfonylamino)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1 | C15H10ClN3O4S
reactant | (±)-2-amino-3-(3,4-dichloro-phenyl)-3-oxo-propionic acid methyl ester hydrochloride | Cl.COC(C(C(=O)C1=CC(=C(C=C1)Cl)Cl)N)=O
product | (±)-2-[4-Chloro-2-(quinoxaline-5-sulfonylamino)-benzoylamino]-3-(3,4-dichloro-phenyl)-3-oxo-propionic acid methyl ester | COC(C(C(=O)C1=CC(=C(C=C1)Cl)Cl)NC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1)=O)=O | C25H17Cl3N4O6S
